US07060827B2
In a manner similar to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-trifluoromethylpyrimidine and ethyl 4-aminophenylacetate were reacted to yield N2,N4-bis[4-(ethoxycarbonylmethyl)phenyl]-5-trifluoromethyl-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 8.31 (s, 1H), 7.46 (d, 2H, J=9.0 Hz), 7.45 (d, 2H, J=8.7 Hz), 7.30 (d, 2H, J=9.0 Hz), 7.18 (d, 2H, J=8.7 Hz), 7.16 (bs, 1H), 6.82 (bs, 1H), 4.16 (2q, 4H, J=7.8 Hz), 3.64 (s, 2H), 3.57 (s, 2H), 1.27 (t, 3H, J=7.8 Hz), 1.26 (t, 3H, J=7.8 Hz); 19F NMR (CDCl3): −17223; LCMS: ret. time: 28.07 min.; purity: 99%; MS (m/e): 504 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 2,4-dichloro-5-trifluoromethylpyrimidine | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | ethyl 4-aminophenylacetate | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
product | N2,N4-bis[4-(ethoxycarbonylmethyl)phenyl]-5-trifluoromethyl-2,4-pyrimidinediamine | C(C)OC(=O)CC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)CC(=O)OCC)C(F)(F)F | C25H25F3N4O4
